US07491819B1
2-(3-Chloropropoxy)-2-methylpropanenitrile.
Zinc chloride (68.1 g, 0.5 mol) was fused using the procedure described for the synthesis of intermediate 23, 2-(2-chloroethoxy)-2-methylpropanenitrile. The molten zinc was cooled and the flask flushed with nitrogen. The flask was loaded with acetone cyanohydrin (46 mL, 0.5 mol) and 3-chloropropanol (64 mL, 0.75 mmol) and the reaction mixture stirred at 60° C. for 30 hours. The mixture was then diluted with water (200 mL) and extracted with dichloromethane (1×200 mL and 3×100 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated in-vacuo. The crude product was purified by vacuum distillation (bp 78-84° C., 10 mmHg) to give the title compound (41 g) as a 2:1 mixture with residual 3-chloropropanol. 1H NMR (500 MHz, CDCl3) δ ppm: 3.72 (2H, t, J=5.8 Hz), 3.63 (2H, t, J=6.4 Hz), 2.04 (2H, m), 1.57 (6H, br s).

reactant | 2-(2-chloroethoxy)-2-methylpropanenitrile | ClCCOC(C#N)(C)C | C6H10ClNO
reactant | acetone cyanohydrin | 0.5 mol, 46 mL | CC(C#N)(O)C | C4H7NO
reactant | 3-chloropropanol | 0.75 mmol, 64 mL | ClCCCO | C3H7ClO
solvent | water | 200 mL | O | H2O
catalyst | Zinc chloride | 0.5 mol, 68.1 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc | [Zn] | Zn
product | 2-(3-Chloropropoxy)-2-methylpropanenitrile | 41 g | ClCCCOC(C#N)(C)C | C7H12ClNO
